### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/TensorProduct/Basic): add `LinearEquiv.(l|r)Tensor`

### PR DESCRIPTION
**Pull request by acmepjz**
- add `LinearMap.(l|r)Tensor` and their properties
- add `congr_symm`, `congr_refl_refl`, `congr_trans`, `congr_mul`, `congr_pow` and `congr_zpow`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 1]
```diff
@@ -1116,11 +1120,19 @@ def lTensor (f : N →ₗ[R] P) : M ⊗[R] N →ₗ[R] M ⊗[R] P :=
...
   TensorProduct.map f id
 #align linear_map.rtensor LinearMap.rTensor
 
+theorem _root_.TensorProduct.coe_congr_left_refl (f : N ≃ₗ[R] P) :
+    (TensorProduct.congr (LinearEquiv.refl R M) f).toLinearMap = lTensor M f :=
+  rfl
+
+theorem _root_.TensorProduct.coe_congr_right_refl (f : N ≃ₗ[R] P) :
+    (TensorProduct.congr f (LinearEquiv.refl R M)).toLinearMap = rTensor M f :=
+  rfl
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean:1134]: I think simp normal forms are the following:
```suggestion
theorem _root_.TensorProduct.coe_congr_left_refl (f : N ≃ₗ[R] P) :
    TensorProduct.congr (.refl R M) f = lTensor M (f : N →ₗ[R] P) :=
  rfl

theorem _root_.TensorProduct.coe_congr_right_refl (f : N ≃ₗ[R] P) :
    TensorProduct.congr f (.refl R M) = rTensor M (f : N →ₗ[R] P) :=
  rfl
```
But maybe it's more appropriate to introduce LinearEquiv.lTensor/rTensor.

**Comment by acmepjz** [comment]
> But maybe it's more appropriate to introduce LinearEquiv.lTensor/rTensor.

I think you're right; let me check it later.

**Comment by acmepjz** [comment]
Ooos, file is too long :(

**Comment by acmepjz** [comment]
I have no idea why `Mathlib/Algebra/Category/ModuleCat/Monoidal/Basic.lean` beraks. Seems that `LinearMap.lTensor` does not work anymore.

**Comment by acmepjz** [comment]
It looks like that merely adding the definition `LinearEquiv.lTensor` breaks that file.

**Review by alreadydone — COMMENTED** [review]
`(assoc R W X Y).rTensor Z` needs to be changed to `(assoc R W X Y).toLinearMap.rTensor Z`. `assoc R W X Y` was automatically coerced to a LinearMap, but now rTensor has another interpretation.

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 2]
```diff
@@ -1111,20 +1141,31 @@ theorem tensorTensorTensorAssoc_symm_tmul (m : M) (n : N) (p : P) (q : Q) :
...
 
-/-- `rTensor f M : N₁ ⊗ M →ₗ N₂ ⊗ M` is the natural linear map induced by `f : N₁ →ₗ N₂`. -/
+/-- `LinearMap.rTensor M f : N₁ ⊗ M →ₗ N₂ ⊗ M` is the natural linear map
+induced by `f : N₁ →ₗ N₂`. -/
 def rTensor (f : N →ₗ[R] P) : N ⊗[R] M →ₗ[R] P ⊗[R] M :=
   TensorProduct.map f id
 #align linear_map.rtensor LinearMap.rTensor
 
+theorem _root_.TensorProduct.coe_congr_left_refl (f : N ≃ₗ[R] P) :
+    TensorProduct.congr (.refl R M) f = lTensor M (f : N →ₗ[R] P) :=
```
Comment (alreadydone) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean:1162]: I think this should become two lemmas: `TensorProduct.congr (.refl R M) f = f.lTensor M` and `f.lTensor M = lTensor M (f : N →ₗ[R] P)` (if it fails to elaborate you may add type ascription to coerce LHS to LinearMap).

Comment (acmepjz) [reply Mathlib/LinearAlgebra/TensorProduct/Basic.lean:1162]: I think the first is just the definition of `LinearEquiv.lTensor`, so `rw [← LinearEquiv.lTensor]` should work. The second is `LinearEquiv.coe_lTensor` I added.

Comment (acmepjz) [reply Mathlib/LinearAlgebra/TensorProduct/Basic.lean:1162]: Perhaps `TensorProduct.coe_congr_left_refl` is not useful at this point, so maybe we can remove it? Since when we have `LinearEquiv.lTensor`, we don't write `TensorProduct.congr (.refl R M) f` anymore, but write `f.lTensor M` instead.

Comment (alreadydone) [reply Mathlib/LinearAlgebra/TensorProduct/Basic.lean:1160]: > I think the first is just the definition of LinearEquiv.lTensor, so rw [← LinearEquiv.lTensor] should work. The second is LinearEquiv.coe_lTensor I added.

I see!

> Perhaps TensorProduct.coe_congr_left_refl is not useful at this point, so maybe we can remove it? Since when we have LinearEquiv.lTensor, we don't write TensorProduct.congr (.refl R M) f anymore, but write f.lTensor M instead.

Yeah I agree we should remove it.

**Review by alreadydone — APPROVED** [review]
Thanks, LGTM!
maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
